US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-[2-(N-piperazino)carbonylbenzofuran-5-yl]-2,4-pyrimidinediamine Hydrogen Chloride Salt, the reaction of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-[3-[2-(N-methylamino)ethyloxy]phenyl]-2,4-pyrimidinediamine with hydrogen chloride (4M, dioxane) gave N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-[3-[2-(N-methylamino)ethyloxy]phenyl]-2,4-pyrimidinediamine Hydrogen Chloride Salt. LCMS: ret. time: 15.88 min.; purity: 92%; MS (m/e): 412 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-[3-[2-(N-methylamino)ethyloxy]phenyl]-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)OCCNC | C21H22FN5O3
reactant | hydrogen chloride | 4M | Cl | ClH
product | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-[3-[2-(N-methylamino)ethyloxy]phenyl]-2,4-pyrimidinediamine Hydrogen Chloride Salt | Cl.C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)OCCNC | InChI=1S/C21H22FN5O3.ClH/c1-23-7-8-28-16-4-2-3-14(11-16)26-21-24-13-17(22)20(27-21)25-15-5-6-18-19(12-15)30-10-9-29-18;/h2-6,11-13,23H,7-10H2,1H3,(H2,24,25,26,27);1H
